US20010049385A1
5-(((2-Naphthyl)methoxy)methyl)-4,5,6,7-tetrahydro-1H-benzimidazole
A solution of a mixture of 5-(((2-naphthyl)methoxy)methyl)-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole and 5-(((2-naphthyl)methoxy)methyl)-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole (590 mg, 1.1 mmol) in a mixture of glacial acetic acid (5 ml) and water (0.6 ml) was heated to 70° C. for 2 hours. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica, using DCM/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 300 mg of the title compound.

reactant | 5-(((2-naphthyl)methoxy)methyl)-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole | C1=C(C=CC2=CC=CC=C12)COCC1CC2=C(N(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1 | C38H34N2O
reactant | 5-(((2-naphthyl)methoxy)methyl)-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole | 1.1 mmol, 590 mg | C1=C(C=CC2=CC=CC=C12)COCC1CC2=C(N=CN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1 | C38H34N2O
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.6 ml | O | H2O
product | 5-(((2-Naphthyl)methoxy)methyl)-4,5,6,7-tetrahydro-1H-benzimidazole | 300 mg | C1=C(C=CC2=CC=CC=C12)COCC1CC2=C(NC=N2)CC1 | C19H20N2O
